US06331538B1
6-Fluoro-3-hydroxy-1-(4-methylphenyl)-7-pyrrolidin-1-yl-1H-pyrido[2,3-d]pyrimidine-2,4-dione
Using the method of Example 56, 20% Pd/C (20 mg), 3-benzyloxy-6-fluoro-1-(4-methylphenyl)-7-pyrrolidin-1-yl-1H-pyrido[2,3-d]pyrimidine-2,4-dione (Example R-4, 0.16 g, 0.33 mmol) were combined in 25 mL of THF, to give 0.11 g of the title compound as a solid, mp 228-230° C.

reactant | 3-benzyloxy-6-fluoro-1-(4-methylphenyl)-7-pyrrolidin-1-yl-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 0.33 mmol, 0.16 g | C(C1=CC=CC=C1)ON1C(N(C2=C(C1=O)C=C(C(=N2)N2CCCC2)F)C2=CC=C(C=C2)C)=O | C25H23FN4O3
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 6-Fluoro-3-hydroxy-1-(4-methylphenyl)-7-pyrrolidin-1-yl-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 0.11 g | FC1=CC2=C(N(C(N(C2=O)O)=O)C2=CC=C(C=C2)C)N=C1N1CCCC1 | C18H17FN4O3
